US07541472B2
A mixture of 62 mg (0.27 mmol) of 3-(trifluoromethyl)phenylmethyl acrylate, 29 mg (0.27 mmol) of pyridine-3-carboxaldehyde, and 30 mg (0.27 mmol) of 1,4-diazabicyclo [2.2.2]octane (DABCO) was thoroughly shaken on a Vortex mixer, and then stored at 0° C. overnight. The product was purified by preparative HPLC (prep HPLC) using a Gilson 210 HPLC/fraction handler to give 47 mg (0.14 mmol; 52% yield) of the desired Baylis-Hillman adduct, 3-(trifluoromethyl)phenylmethyl β-hydroxy-α-methylene-3-pyridinepropanoate. 1H NMR (CDCl3): δ 5.18 (s, 2H), 5.63 (1H), 5.98 (1H), 6.45 (1H), 7.70 (d of t, 1H), 8.49 (d of d, 1H), and 8.56 ppm (d, 1H). MS m/z: 338.1 (M+H).

reactant | 3-(trifluoromethyl)phenylmethyl acrylate | 0.27 mmol, 62 mg | C(C=C)(=O)OCC1=CC(=CC=C1)C(F)(F)F | C11H9F3O2
reactant | pyridine-3-carboxaldehyde | 0.27 mmol, 29 mg | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 1,4-diazabicyclo [2.2.2]octane | 0.27 mmol, 30 mg | N12CCN(CC1)CC2 | C6H12N2
product | 3-(trifluoromethyl)phenylmethyl β-hydroxy-α-methylene-3-pyridinepropanoate | 52% yield | OC(C(C(=O)OCC1=CC(=CC=C1)C(F)(F)F)=C)C=1C=NC=CC1 | C17H14F3NO3
